US06716851B2
4-(4,5-Dimethoxy-2-methylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4,5-dimethoxy-2-methylaniline (48 mg, 0.290 mmol) similar to Example 117 and isolated as a yellow solid (64 mg, 79%). 1H NMR (CDCl3): 8.82-8.80 (m, 1H), 8.55 (d, J=7.8 Hz, 1H), 7.88-7.82 (m, 1H), 7.51 (s, 1H), 7.43-7.38 (m, 1H), 6.80 (s, 1H), 6.76 (s, 1H), 6.50 (s, 1H), 3.92 (s, 3H), 3.84 (s, 3H), 2.19 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 4,5-dimethoxy-2-methylaniline | 0.290 mmol, 48 mg | COC1=CC(=C(N)C=C1OC)C | C9H13NO2
product | 4-(4,5-Dimethoxy-2-methylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.COC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C1OC)C | InChI=1S/C19H17F3N4O2.ClH/c1-11-8-14(27-2)15(28-3)9-13(11)24-17-10-16(19(20,21)22)25-18(26-17)12-6-4-5-7-23-12;/h4-10H,1-3H3,(H,24,25,26);1H
